US06358972B1
5-(5-Chlorobenzimidazol-2-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
A solution of 5-formyl-3-(1-methylpiperidin-4-yl)-1H-indole (0.210 g, 0.90 mmol), and 4-chloro-o-phenylenediamine (0.197 g, 1.38 mmol), in 15 mL of nitrobenzene was heated, with stirring, at 150-160° C. for 24 hours. The solution was allowed to cool to room temperature, the solvent was removed in vacuo, and the residue was purified by silica gel chromatography (dichloromethane:methanol 10:1.5) to give the title compound (0.215 g, 68%) as an amorphous tan solid. FDMS m/e=365 (M+). EA calculated for C21H21N4Cl.¼ H2O C, 68.28; H, 5.87; N, 15.17. Found: C, 68.32; H, 6.17; N, 14.51.

reactant | 5-formyl-3-(1-methylpiperidin-4-yl)-1H-indole | 0.90 mmol, 0.210 g | C(=O)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C15H18N2O
reactant | 4-chloro-o-phenylenediamine | 1.38 mmol, 0.197 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
solvent | nitrobenzene | 15 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-(5-Chlorobenzimidazol-2-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | 0.215 g, 68% | ClC1=CC2=C(N=C(N2)C=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1 | C21H21ClN4
